US08309546B2
5-[8-(4-Acetylpiperazin-1-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine
N-Methylpyrrolidone (1 ml) was added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (100 mg, 0.26 mmol) and N-acetylpiperazine (166 mg, 1.3 mmol) and the resulting mixture was stirred at 150° C. for 7 hours. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (105 mg, 85%) as a white solid.

reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.26 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C17H19ClN8O
reactant | N-acetylpiperazine | 1.3 mmol, 166 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | N-Methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[8-(4-Acetylpiperazin-1-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 105 mg, 85% | C(C)(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C23H30N10O2
